US06486342B1
(2-(2-{4-[(3,5-Dimethyl-phenylcarbamoyl)-methyl]-phenoxy}-2-methyl-propionylamino)-3-phenyl-propionic acid (27 (L) and 28 (D), (KDD4-32 & KDD5-134)
Using RSR13 acid (1.6 g, 4.7 mmol), phenylalanine methyl ester hydrochloride (1.08 mg, 4.7 mmol) and 1-hydroxybenzotriazole hydrate (697 mg, 5.2 mmol), N-methylmorpholine (711 mg, 7.0 mmol) and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (1.08 g, 5.3 mmol) in dimethylformamide (40 mL), the two isomers were prepared in 2.2 g yield (96%).

reactant | RSR13 | 4.7 mmol, 1.6 g | CC=1C=C(C=C(C1)NC(=O)CC=2C=CC(=CC2)OC(C)(C)C(=O)O)C | C20H23NO4
reactant | phenylalanine methyl ester hydrochloride | 4.7 mmol, 1.08 mg | Cl.COC([C@@H](N)CC1=CC=CC=C1)=O
reactant | 1-hydroxybenzotriazole hydrate | 5.2 mmol, 697 mg | O.ON1N=NC2=C1C=CC=C2
reactant | N-methylmorpholine | 7.0 mmol, 711 mg | CN1CCOCC1 | C5H11NO
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 5.3 mmol, 1.08 g | Cl.CN(CCCN=C=NCC)C
solvent | dimethylformamide | 40 mL | CN(C=O)C | C3H7NO
product | 2-(2-{4-[(3,5-Dimethyl-phenylcarbamoyl)-methyl]-phenoxy}-2-methyl-propionylamino)-3-phenyl-propionic acid | CC=1C=C(C=C(C1)C)NC(=O)CC1=CC=C(OC(C(=O)NC(C(=O)O)CC2=CC=CC=C2)(C)C)C=C1 | C29H32N2O5
